US04379154
A mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 140 cc) is added dropwise and in the course of 10 minutes to a 1.6 M solution of n-butyllithium in hexane (140 cc), kept under a nitrogen atmosphere and cooled to -60° C. A solution of 2-(pyrid-2-yl)-1,3-dithiane (36 g) in a mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 140 cc) is then added in the course of 20 minutes and at the same temperature. After stirring for 15 minutes, a solution of carbon disulphide (17 g) in a mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 70 cc) is added in the course of 10 minutes. After stirring for 5 minutes at -60° C., a solution of methyl iodide (32 g) in anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (70 cc) is added in the course of 10 minutes. After stirring for 1 hour 30 minutes at a temperature of about -40° C., distilled water (500 cc) is added; the mixture is then extracted four times with ethyl acetate (1100 cc in total). The organic extracts are combined, washed three times with distilled water (1200 cc in total), dried over anhydrous sodium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. The product obtained (57 g) is chromatographed on neutral alumina (1080 g) contained in a column of diameter 5.2 cm. Elution is carried out with cyclohexane (6000 cc), 1000 cc fractions being collected, and then with a cyclohexane/ethyl acetate mixture (99/1 by volume; 2500 cc), 500 cc fractions being collected. Fractions 7 to 11 are combined and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. The product obtained (15 g) is dissolved in boiling ethanol (30 cc) and the solution is cooled for 1 hour at 0° C. The resulting crystals are filtered off, washed twice with ethanol (20 cc in total) and dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. Methyl 2-(pyrid-2-yl)-1,3-dithiane-2-carbodithioate (7.7 g), melting at 91° C., is thus obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-(pyrid-2-yl)-1,3-dithiane | 36 g | N1=C(C=CC=C1)C1SCCCS1 | C9H11NS2
reactant | carbon disulphide | 17 g | C(=S)=S | CS2
reactant | methyl iodide | 32 g | CI | CH3I
solvent | hexane | 140 cc | CCCCCC | C6H14
solvent | hexamethylphosphorotriamide | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | tetrahydrofuran | 70 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 140 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 140 cc | O1CCCC1 | C4H8O
solvent | ethanol | 30 cc | C(C)O | C2H6O
product | Methyl 2-(pyrid-2-yl)-1,3-dithiane-2-carbodithioate | 7.7 g | N1=C(C=CC=C1)C1(SCCCS1)C(=S)SC | C11H13NS4
